US09238644B2
(b) 2-(2-Iodophenyl)butanamide (I2)
HOBt (325 mg, 2.40 mmol), EDCl.HCl (461 mg, 2.40 mmol) and DIPEA (1.40 mL, 8.02 mmol) were added to a stirred solution of 2-(2-iodophenyl)butanoic acid (I1) (465 mg, 1.60 mmol) in dry THF (6 mL) and dry DMF (1 mL) under an atmosphere of nitrogen. After 10 minutes ammonium carbonate (770 mg, 8.02 mmol) was added in one portion and the resulting mixture stirred at room temperature for 24 hours. The volatiles were removed in vacuo and EtOAc (50 mL) and saturated aqueous NaHCO3 (50 mL) were added to the residue. The aqueous phase was extracted with EtOAc (2×50 mL), then the combined organic extracts were washed with brine and dried over MgSO4. The solvent was removed under reduced pressure and the resulting solid was purified by silica gel column chromatography (Biotage Isolera, SiO2 cartridge, 0-50% EtOAc in petroleum benzine 40-60° C.) to give the title compound I2 as a white solid (398 mg, 86%); NMR (400 MHz, d6-DMSO) δ 7.85 (dd, J=7.9, 1.2 Hz, 1H), 7.46 (dd, J=7.8, 1.7 Hz, 1H), 7.39 (s, 1H), 7.35 (td, J=7.6, 1.2 Hz, 1H), 7.02-6.92 (m, 2H), 3.59 (dd, J=8.8, 6.0 Hz, 1H), 1.92-1.78 (m, 1H), 1.65-1.51 (m, 1H), 0.86 (t, J=7.3 Hz, 3H). LCMS-A: rt 5.463 min; m/z 290 [M+H]+.

reactant | HOBt | 2.40 mmol, 325 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | CCN=C=NCCCN(C)C.Cl
reactant | HCl | 2.40 mmol, 461 mg | Cl | ClH
reactant | DIPEA | 8.02 mmol, 1.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(2-iodophenyl)butanoic acid | 1.60 mmol, 465 mg | IC1=C(C=CC=C1)C(C(=O)O)CC | C10H11IO2
reactant | ammonium carbonate | 8.02 mmol, 770 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2-Iodophenyl)butanamide | 398 mg, 86% | IC1=C(C=CC=C1)C(C(=O)N)CC | C10H12INO
